US07906517B2
Ethyl 4-[2-((3,5-bis-trifluoromethyl-benzyl)-{2-[(S)-1-(tert-butyl-dimethyl-silanyloxymethyl)-propylamino]-5-trifluoromethyl-benzyl}-amino)-pyrimidin-5-yloxy]-butyrate (183 mg) is dissolved in tetrahydrofuran (3 mL) and thereto is added 1M-tetrabutylammonium fluoride/tetrahydrofuran solution (1 ml) and the mixture is stirred at room temperature for 20 minutes. The reaction solution is concentrated under reduced pressure and thereto is added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed twice with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=4:1→2:1) to give ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-((S)-1-hydroxymethyl-propylamino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (93 mg). MS (m/z): 697 [M+H]+

reactant | Ethyl 4-[2-((3,5-bis-trifluoromethyl-benzyl)-{2-[(S)-1-(tert-butyl-dimethyl-silanyloxymethyl)-propylamino]-5-trifluoromethyl-benzyl}-amino)-pyrimidin-5-yloxy]-butyrate | 183 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)N[C@@H](CC)C(O[SiH2]C(C)(C)C)(C)C)C=C(C1)C(F)(F)F)(F)F | C37H47F9N4O4Si
reactant | tetrabutylammonium fluoride tetrahydrofuran | 1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-((S)-1-hydroxymethyl-propylamino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 93 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)N[C@@H](CC)CO)C=C(C1)C(F)(F)F)(F)F | C31H33F9N4O4
